US09278982B2
A mixture of ethyl piperazine-1-carboxylate (300 mg, 1.90 mmol), 4-nitrophenyl carbonochloridate (460 mg, 2.28 mmol) and Et3N (576 mg, 5.69 mmol) in anhydrous CH2Cl2 (7 mL) was stirred at room temperature for 24 h, and then the reaction mixture turned to a yellow solution. Extraction with NaHCO3(aq.) until the organic layer turns to transparent solution. And then the organic layer was dried over MgSO4, filtered, concentrated, and purified by flash chromatography on a silica gel column with elution of EtOAc/hexane (1:1.5) to give 1-ethyl 4-(4-nitrophenyl) piperazine-1,4-dicarboxylate (172 mg, 45% yield). C14H17N3O6; pale yellow solid; mp 125-128° C.; IR vmax (neat) 3512, 3082, 2983, 2930, 2867, 1730, 1701, 1594, 1523, 1459, 1425, 1348, 1288, 1209, 1163, 1085, 1055, 996, 957 cm−1; 1H NMR (400 MHz, CDCl3) δ 8.23 (1H, d, J=8.8 Hz), 7.28 (1H, t, J=8.8 Hz), 4.17 (2H, q, J=6.8 Hz), 3.66 (2H, br s), 3.56 (6H, br s), 1.28 (3H, t, J=7.2 Hz); 13C NMR (100 MHz, CDCl3) δ 155.7, 155.1, 151.9, 144.7, 124.9 (2×), 122.1 (2×), 61.8, 44.5, 43.8, 43.4 (2×), 14.8.

reactant | ethyl piperazine-1-carboxylate | 1.90 mmol, 300 mg | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | 4-nitrophenyl carbonochloridate | 2.28 mmol, 460 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | Et3N | 5.69 mmol, 576 mg | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | 1-ethyl 4-(4-nitrophenyl) piperazine-1,4-dicarboxylate | 172 mg, 45% yield | N1(CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC | C14H17N3O6
